US05958942
ii) Synthesis of 4,5-dihydro-4-[2-(1-trifluoromethanesulfonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
In 15 ml of acetonitrile was suspended 713 mg (2.0 mM) of 4,5-dihydro-4-[2-(piperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride followed by addition of 0.6 ml (4.0 mM) of DBU at room temperature with stirring. To the resulting solution was added 0.83 ml (6.0 mM) of triethylamine as well as 0.37 ml (2.2 mM) of trifluoromethanesulfonic anhydride at 0° C. and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 50 ml of 2-butanone. The organic layer was washed with 50 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=9:1) to provide 434 mg (yield 35.0%) of the title compound as light-yellow amorphous substance.

reactant | 4,5-dihydro-4-[2-(piperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride | 2.0 mM, 713 mg | Cl.N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | DBU | 4.0 mM, 0.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 6.0 mM, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.2 mM, 0.37 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-[2-(1-trifluoromethanesulfonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 434 mg, yield 35.0% | FC(S(=O)(=O)N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C17H19F3N4O3S
